US04126687
A mixture of 2.3 parts of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 2.31 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 3.2 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. After cooling to room temperature, water is added. The undissolved product is filtered off and purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated, yielding 0.9 parts (22%) of 8-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one; mp. 228° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 8-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 22% | O=C1NC2=C(N1CCCN1CCC3(C(NCN3C3=CC=CC=C3)=O)CC1)C=CC=C2 | C23H27N5O2
